US06121271
4-[2-Bromo-4-(2,3-dimethyl-naphtho[2,3-b]furan-4-yl)-6-ethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid
The title compound was prepared according to the procedure in Example 1, step 9, using 2-bromo-4-(2,3-dimethyl-naphtho[2,3-b]furan-4-yl)-6-ethyl-phenol (0.458 g, 1.16 mmol) and 4-chlorosulphonyl-2-hydroxybenzoic acid (0.994 g, 4.19 mmol). Purification on 2% H3PO4 /MeOH treated silica gel eluting with a 0 & 10% EtOAc/hexane step gradient gave 0.165 g of the title compound as a white solid, mp 238-243° C. 1H NMR (DMSO-d6) δ 1.13 (t, 3 H), 1.56 (s, 3 H), 2.39 (s, 3 H), 2.65-2.70 (m, 2 H), 7.37-7.60 (m, 7 H), 8.01-8.08 (m, 3 H). mass spectrum (-ESI) m/z 593 (M-H). Anal. Calcd. for C29H23BrO7S: C, 58.50; H, 3.89; N, 0.00. Found: C, 58.91; H, 4.02; N, 0.05.

reactant | 2-bromo-4-(2,3-dimethyl-naphtho[2,3-b]furan-4-yl)-6-ethyl-phenol | 1.16 mmol, 0.458 g | BrC1=C(C(=CC(=C1)C1=C2C=CC=CC2=CC=2OC(=C(C21)C)C)CC)O | C22H19BrO2
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 4.19 mmol, 0.994 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
product | 4-[2-Bromo-4-(2,3-dimethyl-naphtho[2,3-b]furan-4-yl)-6-ethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid | 0.165 g | BrC1=C(OS(=O)(=O)C2=CC(=C(C(=O)O)C=C2)O)C(=CC(=C1)C1=C2C=CC=CC2=CC=2OC(=C(C21)C)C)CC | C29H23BrO7S
